data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1CCC([CH:22]1[O:23]P(=O)(Cl)Cl)(C)O.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1(CC[CH:21]=[CH:22]1)O.[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
CCOC(=O)C[N-:10]N=N[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.O>>CCOC(=O)C[N:10]1N=N[P:20]1(C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.O 10=20,
[H:20][O+:21]=CC.[OH2:10]>>[H:20][OH2+:10].CC=[O:21] 10=20;20,21=21
CO[PH+:22](OC)[O:21][CH3:20].[Br-:10]>>CO[PH:22](=[O:21])OC.[CH3:20][Br:10] 10=20;20,21=21,22
CC(CC1CCCC1)CC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>CC(CC1CCCC1)CC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][O:21]S(=O)(=O)O.CCC([NH2:10])(OCC)OCC>>[H:20][NH2+:10]C(CC)(OCC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCO[Si:20](C)(C)C.[OH-:10].CCCC[N+](CCCC)(CCCC)CCCC.O>>CCO[Si-:20](C)(C)(C)[OH:10].CCCC[N+](CCCC)(CCCC)CCCC.O 10=20,
[H:20][CH:21](C)[C:22](=[O:23])CC.CC1CCC2(C1(CC(=O)C2C)C(=O)OC)[O-:10].[HH].[Na+]>>[H:20][O:10]C12CCC(C1(CC(=O)C2C)C(=O)OC)C.CC[C:22](=[CH:21]C)[O-:23].[HH].[Na+] 10=20;22,23=23;20,21=21,22
CC[OH:10].C[C:20](=[OH+:21])N>>CC[OH+:10][C:20](C)(N)[OH:21] 10=20;20,21=21
[H:20][CH:21](C)[CH2:22][O:23]S(=O)(=O)C(F)(F)F.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[CH:21]=[CH2:22].C(F)(F)(F)S(=O)(=O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(CCC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)(NC3=CC(=CC=C3)S(=O)(=O)N)[OH:10].CC1=CC=CC=C1>>[H:20][OH+:10]C(C)(CCC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)NC3=CC(=CC=C3)S(=O)(=O)N.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
CC1(C2=C(C=C(C(=C2)N3CC[NH:10]CC3)Br)C(=O)C4=C1NC5=CC=CC=C54)C.C1[C:20](=[O:21])CO1.[BH3-]C#N.CC(=O)O.CO>>CC1(C2=C(C=C(C(=C2)N3CC[NH+:10](CC3)[C:20]4(COC4)[O-:21])Br)C(=O)C5=C1NC6=CC=CC=C65)C.[BH3-]C#N.CC(=O)O.CO 10=20;20,21=21
[Li+:20].C[P:10](Cl)Cl>>[Li:20][P+:10](C)(Cl)Cl 10=20,
[Li][Cu:11](C1=CC=CC=C1)[C:10]2=CC=CC=C2.[CH2:20]=[CH:21][C:22]#[N:23]>>[Li][Cu+:11]C1=CC=CC=C1.C1=CC=[C:10](C=C1)[CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;22,23=23;20,21=21,22
CC#C[C:20](C)([O-:10])[O:21]C>>CC#C[C:20](=[O:10])C.C[O-:21] 10=20;20,21=21
[H:20][O:21]CC.[B-]([O:10]C(CC1CC(=C)CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F.CC[O+](CC)[Si](C)(C)C>>[H:20][O+:10]([B-](F)(F)F)C(CC1CC(=C)CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C.CC[O-:21].CC[O+](CC)[Si](C)(C)C 10=20;20,21=21
CC[O-:10].C=C[C:20](=[O:21])Cl>>CC[O:10][C:20](C=C)([O-:21])Cl 10=20;20,21=21
C[C-:10](C#N)Br.[Br:20][Br:21]>>C[C:10](C#N)(Br)[Br:20].[Br-:21] 10=20;20,21=21
[H:20][N+:21](C)(C)C=C.[OH2:10]>>[H:20][OH2+:10].C[N:21](C)C=C 10=20;20,21=21
CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH2:10])OC.CC(C)(C)C[CH:20]=[O:21].CCN(CC)CC.C(=O)(C(F)(F)F)O>>CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH2+:10][CH:20](CC(C)(C)C)[O-:21])OC.CCN(CC)CC.C(=O)(C(F)(F)F)O 10=20;20,21=21
CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)[O:21][P:20](C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:10].O>>CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)[O-:21].C1=CC=C(C=C1)[P:20](=[O:10])(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
C[CH:20]=[O+:21]C.C[OH:10]>>C[CH:20]([OH+:10]C)[O:21]C 10=20;20,21=21
[H:20][O:21]C(=O)C.C1CN(CCC1C2=CC(C(N2)(C3=CC=C(C=C3)F)[OH:10])C4=CC=NC=C4)C(=O)OCC5=CC=CC=C5.O>>[H:20][OH+:10]C1(C(C=C(N1)C2CCN(CC2)C(=O)OCC3=CC=CC=C3)C4=CC=NC=C4)C5=CC=C(C=C5)F.CC(=O)[O-:21].O 10=20;20,21=21
C[C:20](CC(=O)OC)([N:10](C)CC1=CC=CC=C1)[OH2+:21].CC(=O)[O-]>>C[C:20](=[N+:10](C)CC1=CC=CC=C1)CC(=O)OC.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[CH2:20]([NH2:10])[Br:21]>>[CH2:20]=[NH2+:10].[Br-:21] 10=20;20,21=21
CC([C:11]1([N+:21](=[C:20]([O:10]1)NC2CCCCC2)C3CCCCC3)[O-:12])NC(=O)OC.C1=CC=C(C=C1)N>>CC([C:11](=[O:12])[N:21](C1CCCCC1)[C:20](=[O:10])NC2CCCCC2)NC(=O)OC.C1=CC=C(C=C1)N 10,11=10,20;20,21=21;12=11
[H:20][O:21]O.C(=[O:10])(O[K])O[K]>>[H:20][O+:10]=C(O[K])O[K].O[O-:21] 10=20;20,21=21
[H:20][O+:21]1C2C(COC1C3=CC=CC=C3)OC(C(C2N=[N+]=[N-])O)OC4C(CC(C(C4O)OC5C(C(C(C(O5)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-].CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CO>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C4C(O3)COC([O:21]4)C5=CC=CC=C5)N=[N+]=[N-])O)N=[N+]=[N-].CO 10=20;20,21=21
[H:20][OH2+:21].CCNC[CH:10]=[C:11](C)[O-:12]>>[H:20][CH:10](CNCC)[C:11](=[O:12])C.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].C1=CC=C(C=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=CC=CC=C1.[Cl-:21] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21]1C2=C(CC(C1(C3=C(C=CC=C3)F)O)[N+]4=CC=CC=C4)C5CC(C2)C5(C)C.CC(=O)[O-:10].O.[I-]>>[H:20][O:10]C(=O)C.CC1(C2CC1C3=C(C2)[NH:21]C(C(C3)[N+]4=CC=CC=C4)(C5=C(C=CC=C5)F)O)C.O.[I-] 10=20;20,21=21
[H:20][CH:21](C)[CH2:22][Br:23].CC(C)[O-:10]>>[H:20][O:10]C(C)C.C[CH:21]=[CH2:22].[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC)C1(CCCCC1C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C1(CCCCC1C)C 10=20;20,21=21
[H:20][C:21]1([C:22](=[O:23])C2=C(C(=C(C=C2OC)OC)OC)OC1(CCC(C)C(C)OC)O)C.C[O:10][Na]>>[H:20][O+:10](C)[Na].C[C:21]1=[C:22](C2=C(C(=C(C=C2OC)OC)OC)OC1(CCC(C)C(C)OC)O)[O-:23] 10=20;20,21=21,22;22,23=23
